US08034812B2
Production of N-[6-(5-amino-2-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide
Using N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (800 mg, 2.44 mmol), 5-amino-2-chlorophenol (422 mg, 2.93 mmol), potassium carbonate (843 mg, 6.1 mmol) and N,N-dimethylformamide (6.0 mL) as starting materials and in the same manner as in Example 91, the title compound (226 mg, 27%) was obtained as a brown solid.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 2.44 mmol, 800 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | 5-amino-2-chlorophenol | 2.93 mmol, 422 mg | NC=1C=CC(=C(C1)O)Cl | C6H6ClNO
reactant | potassium carbonate | 6.1 mmol, 843 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 6.0 mL | CN(C=O)C | C3H7NO
product | N-[6-(5-amino-2-chlorophenoxy)imidazo[1,2-b]pyridazin-2-yl]cyclopropanecarboxamide | 226 mg, 27% | NC=1C=CC(=C(OC=2C=CC=3N(N2)C=C(N3)NC(=O)C3CC3)C1)Cl | C16H14ClN5O2
